US05688795
A mixture of 2-{3-[4-(2-nitrophenyl)piperazin-1-yl]propylamino}-N,N,5-trimethylbenzamide (580 mg, 1.36 mmol), prepared as in Example 26, and 10% palladium on carbon (70 mg) in 15 mL of ethanol was added and stirred under hydrogen at room temperature for approximately 12 hours. The mixture was filtered and concentrated to give 2-{3-[4-(2-aminophenyl)piperazin-1-yl]propyl-amino}-N,N,5-trimethylbenzamide.

reactant | 2-{3-[4-(2-nitrophenyl)piperazin-1-yl]propylamino}-N,N,5-trimethylbenzamide | 1.36 mmol, 580 mg | [N+](=O)([O-])C1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=C(C=C1)C | C23H31N5O3
catalyst | palladium on carbon | 70 mg | [Pd] | Pd
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-{3-[4-(2-aminophenyl)piperazin-1-yl]propyl-amino}-N,N,5-trimethylbenzamide | NC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=C(C=C1)C | C23H33N5O
